US07618961B2
Ethyl [2-({[4-(acetylamino)-3-chlorophenyl]sulfonyl}amino)-1,3-thiazol-4-yl]acetate
The title compound was prepared from ethyl 2-amino-4-thiazolylacetate and 4-acetamido-3-chlorobenzenesulfonyl chloride as described in the synthetic METHOD B to give a white solid (16.1 mg) with purity >90%. MS (pos) m/z 418.2, 420.2.

reactant | ethyl 2-amino-4-thiazolylacetate | NC=1SC=C(N1)CC(=O)OCC | C7H10N2O2S
reactant | 4-acetamido-3-chlorobenzenesulfonyl chloride | C(C)(=O)NC1=C(C=C(C=C1)S(=O)(=O)Cl)Cl | C8H7Cl2NO3S
product | Ethyl [2-({[4-(acetylamino)-3-chlorophenyl]sulfonyl}amino)-1,3-thiazol-4-yl]acetate | C(C)(=O)NC1=C(C=C(C=C1)S(=O)(=O)NC=1SC=C(N1)CC(=O)OCC)Cl | C15H16ClN3O5S2
